US07612114B2
5-Methoxybenzo[b]thiophene
To a solution of 4-bromobenzenethiol (24.7 g) in acetone (100 ml) was added potassium carbonate (18.5 g), then 2-bromo-1,1-diethoxyethane (19.5 ml) was added dropwise thereto, the solution was stirred overnight at room temperature, then acetone was added thereto. The solution was filtered, and the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system). To a solution of the resulting 1-bromo-4-(2,2-diethoxyethylsulfanyl)benzene (32.5 g) in chlorobenzene (350 ml) was added polyphosphoric acid (60 ml), and then the solution was stirred for 2 hours at 140° C. The reaction mixture was poured into an ice, extracted with ethyl acetate, then sequentially washed with aqueous ammonia, water and brine, dried over anhydrous magnesium sulfate, the solvent was evaporated in vacuo, the resulting residue was purified by silica gel column chromatography (hexane) to provide 5-bromobenzo[b]thiophene (13.7 g). By referring to the synthetic method of Tetrahedron Lett., 1993, 34, 1007, to 5-bromobenzo[b]thiophene (13.7 g) was added sodium methoxide (28% solution in methanol) (200 ml). Copper(I) bromide (13.5 g) and ethyl acetate (40 ml) were sequentially added thereto followed by stirring for 4.5 hours at 80° C. Ethyl acetate and water were sequentially added thereto, the solution was stirred, then filtered through celite pad, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, the solvent was evaporated in vacuo, and the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (9.2 g).

reactant | 5-bromobenzo[b]thiophene | 13.7 g | BrC1=CC2=C(SC=C2)C=C1 | C8H5BrS
reactant | sodium methoxide | 200 ml | C[O-].[Na+]
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | Copper(I) bromide | 13.5 g | [Cu]Br
solvent | water | O | H2O
product | 5-Methoxybenzo[b]thiophene | 9.2 g | COC1=CC2=C(SC=C2)C=C1 | C9H8OS
